US05541287
The intramolecular cyclization step undertaken to give 2-(p-nitrobenzyl)-N,N',N", N"'-tetrakis (tolylsulfonyl)-1,4,7,10-tetraazacyclododecane is performed by treating 2-(p-nitrobenzyl)-N,N',N",N"',O-pentakis(tolylsulfonyl)-3,6,9,12-tetraaz-adodecanol with 1 equivalent of CsCO3 in DMF under high dilution conditions (0.01M of 2-(p-nitrobenzyl)-N,N',N",N"',O-pentakis(tolylsulfonyl)-3,6,9,12-tetraaza-dodecanol) at 60° C. for 5 hours under nitrogen. The tosyl protecting groups of 2-(p-nitrobenzyl)-N,N',N",N"'-tetrakis (tolylsulfonyl)-1,4,7,10-tetraazacyclododecane are removed using concentrated H2SO4 at 100° C. for 56 hours, affording 2-(p-nitrophenyl)-1,4,7,10-tetraaza-cyclododecane. 2-(p-nitrophenyl)-1,4,7,10-tetraaza-cyclododecane is treated with 4.4 equivalents of bromoacetic acid in water at pH 10 at 70° C. for one day to give crude product. The product p-nitrobenzyl-DOTA is obtained after anion-exchange column chromatography with elution of increasing concentration of ammonium acetate, for example.

reactant | 2-(p-nitrobenzyl)-N,N',N",N"',O-pentakis(tolylsulfonyl)-3,6,9,12-tetraaz-adodecanol | [N+](=O)([O-])C1=CC=C(CC(COS(=O)(=O)C2=C(C=CC=C2)C)N(CCN(CCN(CCNS(=O)(=O)C2=C(C=CC=C2)C)S(=O)(=O)C2=C(C=CC=C2)C)S(=O)(=O)C2=C(C=CC=C2)C)S(=O)(=O)C2=C(C=CC=C2)C)C=C1 | C50H57N5O13S5
reactant | 2-(p-nitrobenzyl)-N,N',N",N"',O-pentakis(tolylsulfonyl)-3,6,9,12-tetraaza-dodecanol | 0.01M | [N+](=O)([O-])C1=CC=C(CC(COS(=O)(=O)C2=C(C=CC=C2)C)N(CCN(CCN(CCNS(=O)(=O)C2=C(C=CC=C2)C)S(=O)(=O)C2=C(C=CC=C2)C)S(=O)(=O)C2=C(C=CC=C2)C)S(=O)(=O)C2=C(C=CC=C2)C)C=C1 | C50H57N5O13S5
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(p-nitrophenyl)-1,4,7,10-tetraaza-cyclododecane | [N+](=O)([O-])C1=CC=C(C=C1)C1NCCNCCNCCNC1 | C14H23N5O2
